US07241785B2
A mixture of ethyl 3-(1-benzyl-3-hydroxy-1H-pyrazol-4-yl)propionate (411 mg), 5-chloromethyl-2-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine (472 mg), potassium carbonate (414 mg) and N,N-dimethylformamide (10 ml) was stirred at 60° C. for 4 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[1-benzyl-3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1H-pyrazol-4-yl]propionate (748 mg, yield 91%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | ethyl 3-(1-benzyl-3-hydroxy-1H-pyrazol-4-yl)propionate | 411 mg | C(C1=CC=CC=C1)N1N=C(C(=C1)CCC(=O)OCC)O | C15H18N2O3
reactant | 5-chloromethyl-2-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine | 472 mg | ClCC=1C=CC(=NC1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15ClN2O2
reactant | potassium carbonate | 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-[1-benzyl-3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1H-pyrazol-4-yl]propionate | 748 mg, yield 91% | C(C1=CC=CC=C1)N1N=C(C(=C1)CCC(=O)OCC)OCC=1C=NC(=CC1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C32H32N4O5
